US06953790B2
Step C: Benzyl (1R)-1-{[(2,4-dimethoxybenzyl)(2-phenylprop-2-enyl)amino]carbonyl}but-3-enylcarbamate
Tetrakis(triphenylphosphine)palladium(0) (1.11 g, 0.962 mmol) was added to a solution of benzyl (1R)-1-{[(2-bromoprop-2-enyl)(2,4-dimethoxybenzyl) amino]carbonyl}but-3-enylcarbamate (2.49 g, 4.81 mmol), phenylboronic acid (0.65 g, 5.29 mmol) and sodium carbonate (2M in water; 4.81 mL, 9.63 mmol) in tetrahydrofuran (54 mL) and water (20 mL), and the mixture heated to 60° C. After 1 h, the mixture was allowed to cool to ambient temperature and extracted with dichloromethane (3×). The combined organic extracts were washed with saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (5% ethyl acetate/hexanes→30% ethyl acetate/hexanes) gave the title compound (2.02 g). MS 515 (M+1).

reactant | benzyl (1R)-1-{[(2-bromoprop-2-enyl)(2,4-dimethoxybenzyl) amino]carbonyl}but-3-enylcarbamate | 4.81 mmol, 2.49 g | BrC(CN(C(=O)[C@@H](CC=C)NC(OCC1=CC=CC=C1)=O)CC1=C(C=C(C=C1)OC)OC)=C | C25H29BrN2O5
reactant | phenylboronic acid | 5.29 mmol, 0.65 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 9.63 mmol, 2M, 4.81 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 54 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.962 mmol, 1.11 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Benzyl (1R)-1-{[(2,4-dimethoxybenzyl)(2-phenylprop-2-enyl)amino]carbonyl}but-3-enylcarbamate | 2.02 g | COC1=C(CN(C(=O)[C@@H](CC=C)NC(OCC2=CC=CC=C2)=O)CC(=C)C2=CC=CC=C2)C=CC(=C1)OC | C31H34N2O5
